US05356929
Preparation of 4-trifluoromethyl-7-hydroxy-8-methylcoumarin
A slurry of 2-methylresorcinol (12.4 g, 0.100 mole) and ethyl 4,4,4-trifluoroacetoacetate (18.4 g, 0.100 mole) was added slowly to 100 ml of ice cold sulfuric acid with vigorous stirring. After completion of addition, the solution was allowed to warm to room temperature and was subsequently stirred for 24 hours. The reaction mixture was then slowly added to 500 ml of ice water (300 g ice and 200 ml water) with vigorous stirring. The desired product precipitated from the solution as a light pink solid. The solid was then isolated by vacuum filtration, transferred to a 500 ml beaker, 200 ml of water was added to achieve a slurry and the pH was adjusted to 6 with sodium bicarbonate. The solid was then filtered and recrystallized from ethanol-water to yield 19.5 g (80%) of the desired product. The melting point of the product was 197°-198 ° C.

reactant | 2-methylresorcinol | 0.100 mole, 12.4 g | CC1=C(O)C=CC=C1O | C7H8O2
reactant | ethyl 4,4,4-trifluoroacetoacetate | 0.100 mole, 18.4 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 200 ml | O | H2O
product | 4-trifluoromethyl-7-hydroxy-8-methylcoumarin | 19.5 g, 80% | FC(C1=CC(OC2=C(C(=CC=C12)O)C)=O)(F)F | C11H7F3O3
